US04650900
3-Cyano-3,3-diphenyl-2-methyl-N,N-diisopropyl-propanamide
0.1 Mol of 3-cyano-3,3-diphenyl-2-methylpropionyl chloride were added dropwise while cooling and stirring to 50 g (0.5 mol) of diisopropylamine. The mixture was left standing at room temperature overnight and heated at 40°-50° C. for 30 minutes. The mixture was poured into water and isolated as described above for the preparation of 3-cyano-3,3-diphenyl-2-ethyl-N,N-dimethyl-propanamide. The amide was crystallized from a mixture of toluen and ether. Yield: 25 g (50%), melting at 195°-205° C.

reactant | 3-cyano-3,3-diphenyl-2-methylpropionyl chloride | 0.1 Mol | C(#N)C(C(C(=O)Cl)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C17H14ClNO
reactant | diisopropylamine | 0.5 mol, 50 g | C(C)(C)NC(C)C | C6H15N
reactant | 3-cyano-3,3-diphenyl-2-ethyl-N,N-dimethyl-propanamide | C(#N)C(C(C(=O)N(C)C)CC)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H22N2O
solvent | water | O | H2O
product | 3-Cyano-3,3-diphenyl-2-methyl-N,N-diisopropyl-propanamide | C(#N)C(C(C(=O)N(C(C)C)C(C)C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H28N2O
